US06011175
4-Nitro-3'-methylbiphenyl (14).
To a mixture of 4-nitrobenzene (3.0 g, 14.8 mmol) and 3-methylphenylboronic acid (2.06 g, 15.1 mmol) in 35 mL of acetone and 40 mL of water was added K2CO3.1.5H2O (5.93 g, 37.5 mmol) and Pd(OAc)2 (101 mg, 0.50 mmol). The deep black mixture was refluxed for 6 hr and then cooled. The mixture was extracted with ether and the organic layer was passed through a layer of celite. The pale yellow solution was dried over Na2SO4 and evaporated to dryness. The residue was recrystallized from hot methanol to give pale yellow crystals (2.68 g, 85%). m.p.59-60° C.1H NMR (CDCl3) δ 8.26 (d, 8.7 Hz, 2H), 7.70 (d, 8.7 Hz, 2H), 7.41 (m, 3H), 7.26 (d, 7.1 Hz, 1H), 2.43 (s, 1H). 13C NMR (CDCl3) δ 147.6, 146.8, 138.8, 138.6, 129.6, 128.9, 128.0, 127.6, 124.4, 123.9, 21.4. LRMS (EI) for C13H11NO2 213 (M+, intensity 100); HRMS (EI) calcd 213.0789, obsd 213.0778.

reactant | 4-nitrobenzene | 14.8 mmol, 3.0 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 3-methylphenylboronic acid | 15.1 mmol, 2.06 g | CC=1C=C(C=CC1)B(O)O | C7H9BO2
solvent | acetone | 35 mL | CC(=O)C | C3H6O
solvent | water | 40 mL | O | H2O
catalyst | Pd(OAc)2 | 0.50 mmol, 101 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-Nitro-3'-methylbiphenyl | 2.68 g, 85% | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC(=CC=C1)C | C13H11NO2
